US05968945
3-Phthalimido-3-(3,4-diethoxyphenyl)propionitrile.
Similarly obtained from 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclohexyloxy)-4-methoxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionamide, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclohexyloxy)-4-ethoxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclohexyloxy)-4-methoxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionamide, 3-(1,3-dioxo-4-azaindolin-2-yI)-3-(3-cyclohexyloxy)-4-ethoxyphenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclohexyloxy)-4-methophenyl)propionamide, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionamide, and 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclohexyl oxy)-4-ethoxyphenyl)propionamide are 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionitrile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionitrile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionitrile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitrile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclohexyloxy)-4-methoxyphenyl)propionitrile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionitrile, 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclohexyloxy)-4-ethoxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclohexyloxy)-4-methoxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionitrile, 3-(1,3-dioxo-4-azaindolin-2-yl)-3-(3-cyclohexyloxy)-4-ethoxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclohexyloxy)-4-methoxyphenyl)propionitrile, 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionitrile, and 3-(1,3-dioxo-5-azaindolin-2-yl)-3-(3-cyclohexyloxy)-4-ethoxyphenyl)propionitrile.

reactant | 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-methoxyphenyl)propionitrile | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)C(CC#N)C3=CC(=C(C=C3)OC)OC3CCCC3 | C27H24N2O4
reactant | 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-ethoxy-4-cyclopentyloxyphenyl)propionitrile | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)C(CC#N)C3=CC(=C(C=C3)OC3CCCC3)OCC | C28H26N2O4
reactant | 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-ethoxy-4-cyclohexyloxyphenyl)propionitrile | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)C(CC#N)C3=CC(=C(C=C3)OC3CCCCC3)OCC | C29H28N2O4
reactant | 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-methoxy-4-cyclohexyloxyphenyl)propionitrile | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)C(CC#N)C3=CC(=C(C=C3)OC3CCCCC3)OC | C28H26N2O4
reactant | propionitrile | C(CC)#N | C3H5N
reactant | 3-(1,3-dioxobenzo[f]isoindolin-2-yl)-3-(3-cyclopentyloxy-4-ethoxyphenyl)propionitrile | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)C(CC#N)C3=CC(=C(C=C3)OCC)OC3CCCC3 | C28H26N2O4
product | 3-Phthalimido-3-(3,4-diethoxyphenyl)propionitrile | C1(C=2C(C(N1C(CC#N)C1=CC(=C(C=C1)OCC)OCC)=O)=CC=CC2)=O | C21H20N2O4
